US04804653
In the manner described in Example 1, 1.8 grams (8.0 mmoles) of (chloromethyl)(4-ethoxyphenyl)dimethylsilane was reacted with 1.7 grams (8.0 mmoles) of 6-phenoxy-2-pyridine methanethiol giving 3.2 grams of a light orange oil. The product was purified on a Waters® Prep 500A liquid chromatograph (silica gel) eluting with 6 percent ethylacetate in hexane, to yield 2.7 grams of (4-ethoxyphenyl)dimethyl[(((6-phenoxy-2-pyridinyl)methyl)thio)methyl]silane as a clear oil. Analytical data for this product are shown in Table VI.

reactant | (chloromethyl)(4-ethoxyphenyl)dimethylsilane | 8.0 mmoles, 1.8 grams | ClC[Si](C)(C)C1=CC=C(C=C1)OCC | C11H17ClOSi
reactant | 6-phenoxy-2-pyridine methanethiol | 8.0 mmoles, 1.7 grams | O(C1=CC=CC=C1)C1=CC=CC(=N1)CS | C12H11NOS
product | (4-ethoxyphenyl)dimethyl[(((6-phenoxy-2-pyridinyl)methyl)thio)methyl]silane | 2.7 grams | C(C)OC1=CC=C(C=C1)[Si](CSCC1=NC(=CC=C1)OC1=CC=CC=C1)(C)C | C23H27NO2SSi
